US07893093B2
A mixture of commercially available 6-methylpyridin-3-ol (500 mg), trifluoroacetaldehyde methylhemiacetal (715 mg) and potassium carbonate (69 mg) was heated in a microwave reactor at 180° C. for 3 min. The reaction mixture was partitioned between ethyl acetate and water. The aqueous layer was extracted with ethyl acetate. The combined organics were dried over anhydrous sodium sulfate, filtered, and concentrated. The crude product was purified by silica gel chromatography using 1:1 hexane:ethyl acetate and recrystallized from ethyl acetate and hexane to give 627 mg of 6-methyl-2-(2,2,2-trifluoro-1-hydroxyethyl)pyridin-3-ol.

reactant | 6-methylpyridin-3-ol | 500 mg | CC1=CC=C(C=N1)O | C6H7NO
reactant | trifluoroacetaldehyde methylhemiacetal | 715 mg | COC(C(F)(F)F)O | C3H5F3O2
reactant | potassium carbonate | 69 mg | C([O-])([O-])=O.[K+].[K+]
product | 6-methyl-2-(2,2,2-trifluoro-1-hydroxyethyl)pyridin-3-ol | 627 mg | CC1=CC=C(C(=N1)C(C(F)(F)F)O)O | C8H8F3NO2
